US09163029B2
10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (50 mg, 0.17 mmol) and aluminium chloride (53 mg, 0.40 mmol) were suspended in 1,2-dichloroethane (1 mL). Acetyl chloride (15 μL, 0.21 mmol) in 1,2-dichloroethane was added dropwise to the reaction mixture. After 16 h at room temperature the reaction was not completed and another portion of acetyl chloride (15 μL, 0.21 mmol) was added. The reaction was still incomplete after a further 6 h at room temperature, therefore further acetyl chloride (15 μL, 0.21 mmol) and aluminium chloride (53 mg) were added and the reaction mixture was heated at 60° C. for 2 h. LCMS analysis showed a large amount of doubly acetylated product (372 m/z), along with target product (330 m/z) and a smaller amount of starting material (288 m/z). The reaction mixture was diluted with saturated aqueous solution of NaHCO3 (25 mL) and extracted with CH2Cl2 containing 20% of propan-2-ol (2×25 mL). The organic layers were combined, dried and concentrated in vacuo to give a brown oil. The crude mixture was purified using flash chromatography (Biotage SP4, 12 g cartridge, 0-20% MeOH gradient in CH2Cl2′) to give 7-acetyl-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (23 mg, 40% yield). ESI-MI m/z [M+H]+ 329.9.

reactant | 10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.17 mmol, 50 mg | ClC1=CC=C(C=C1)C12N(C(C=3N(C1)C=CC3)=O)CCN2 | C15H14ClN3O
reactant | aluminium chloride | 0.40 mmol, 53 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Acetyl chloride | 0.21 mmol, 15 μL | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 0.21 mmol, 15 μL | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 0.21 mmol, 15 μL | C(C)(=O)Cl | C2H3ClO
reactant | aluminium chloride | 53 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
solvent | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
product | 7-acetyl-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 23 mg, 40% yield | C(C)(=O)C=1C=C2N(CC3(N(C2=O)CCN3)C3=CC=C(C=C3)Cl)C1 | C17H16ClN3O2
